US06489487B1
A suspension of 6.71 g (55 mmol) of phenylboronic acid, 9.95 g (50 mmol) of 3-bromoacetophenone, 30 mg (0.13 mmol) of palladium acetate, 17.28 g (125 mmol) of potassium carbonate and 16.12 g (50 mmol) of tetrabutylammonium bromide in 55 ml of water was vigorously stirred under a stream of nitrogen and then stirred at 70° C. under an atmosphere of nitrogen for 75 minutes. Water was added to the reaction mixture and the mixture was extracted with tert-butyl methyl ether. Then, the organic layer was dried and concentrated. The residue (10.23 g) was subjected to silica gel column chromatography (eluted with n-hexane:ethyl acetate=7:1) to obtain 9.82 g of 3-acetylbiphenyl as oil.

reactant | phenylboronic acid | 55 mmol, 6.71 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 3-bromoacetophenone | 50 mmol, 9.95 g | CC(=O)C1=CC(=CC=C1)Br | C8H7BrO
reactant | potassium carbonate | 125 mmol, 17.28 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium bromide | 50 mmol, 16.12 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 55 ml | O | H2O
catalyst | palladium acetate | 0.13 mmol, 30 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-acetylbiphenyl | 9.82 g | C(C)(=O)C=1C=C(C=CC1)C1=CC=CC=C1 | C14H12O
